US04369187
A mixture of sodium 3-acetoxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (23 mg) and bromomethyl pivalate (29 mg) in hexamethylphosphoramide (0.5 ml) is stirred at room temperature and under a N2 atmosphere for 2.5 hrs. The mixture is diluted with toluene (10 ml), washed with H2O (5×2 ml) and brine, dried with MgSO4, filtered, and evaporated in vacuo. The residue is purified by silica gel plc to afford pivaloyloxymethyl 3-acetoxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | sodium 3-acetoxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 23 mg | C(C)(=O)OC1=C(N2C(CC2C1)=O)C(=O)[O-].[Na+]
reactant | bromomethyl pivalate | 29 mg | C(C(C)(C)C)(=O)OCBr | C6H11BrO2
solvent | hexamethylphosphoramide | 0.5 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | pivaloyloxymethyl 3-acetoxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | C(C)(=O)OC1=C(N2C(CC2C1)=O)C(=O)OCOC(C(C)(C)C)=O | C15H19NO7
